US08809371B2
Potassium carbonate (87 mg) and phenol (47 mg) were added to an N,N-dimethylacetamide (1 ml) solution containing 3-bromo-2-chloro-5-nitropyridine (100 mg), followed by stirring at 70° C. for 3 hours. Acetic acid palladium (20 mg) was added in a nitrogen atmosphere, followed by stirring at 100° C. for 3.5 hours. Water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, hexane and ethyl acetate were added to the obtained residue, an insoluble precipitate was collected by filtration, and a light yellow solid of 3-nitrobenzofuro[2,3-b]pyridine (47.1 mg) was thus obtained.

reactant | Potassium carbonate | 87 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 47 mg | C1(=CC=CC=C1)O | C6H6O
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 3-bromo-2-chloro-5-nitropyridine | 100 mg | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
catalyst | Acetic acid palladium | 20 mg | [Pd].C(C)(=O)O
solvent | Water | O | H2O
product | 3-nitrobenzofuro[2,3-b]pyridine | 47.1 mg | [N+](=O)([O-])C=1C=C2C(=NC1)OC1=C2C=CC=C1 | C11H6N2O3
